US05071847
1-{3-[4-[(4-Fluorophenyl)phenylmethylene]piperidino]propyl}-4-(2-pyridylmethyl)-2,6-piperazinedione dihydrochloride
This compound was prepared from 4-[(4-fluorophenyl)phenylmethylene]piperidine and 1-(3-chloropropyl)-4-(2-pyridylmethyl)-2,6-piperazinedione according to the process described in Example 6, Stage E.

reactant | 4-[(4-fluorophenyl)phenylmethylene]piperidine | FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=CC=C1 | C18H18FN
reactant | 1-(3-chloropropyl)-4-(2-pyridylmethyl)-2,6-piperazinedione | ClCCCN1C(CN(CC1=O)CC1=NC=CC=C1)=O | C13H16ClN3O2
product | 1-{3-[4-[(4-Fluorophenyl)phenylmethylene]piperidino]propyl}-4-(2-pyridylmethyl)-2,6-piperazinedione dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(=C1CCN(CC1)CCCN1C(CN(CC1=O)CC1=NC=CC=C1)=O)C1=CC=CC=C1 | InChI=1S/C31H33FN4O2.2ClH/c32-27-12-10-25(11-13-27)31(24-7-2-1-3-8-24)26-14-19-34(20-15-26)17-6-18-36-29(37)22-35(23-30(36)38)21-28-9-4-5-16-33-28;;/h1-5,7-13,16H,6,14-15,17-23H2;2*1H
